Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Stroke
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Time/Date the patient was last known well: Evening of ___

Pre-stroke mRS ___ social history for description): 1

t-PA Administration
[] Yes - Time given:
[x] No - Reason t-PA was not administered: IVH

Endovascular intervention: 
[]Yes - Time:
[x]No - Reason EVT was not performed: Redirection of care
(DNR/DNI/DNH status)

___ Stroke Scale - Total [17]

1a. Level of Consciousness - 0
1b. LOC Questions - 1 (month)
1c. LOC Commands - 0
2. Best Gaze - 1
3. Visual Fields - 2
4. Facial Palsy - 3
5a. Motor arm, left - 2
5b. Motor arm, right - 0
6a. Motor leg, left - 3
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 2
9. Language - 0
10. Dysarthria - 1
11. Extinction and Neglect - 2

NIHSS was performed within 6 hours of patient presentation or
neurology consult at 12:44.

HPI: 
Sr. ___ is a ___ woman with history notable for atrial 
fibrillation (on apixaban) s/p PPM, ___ transferred from 
___ after presenting with dizziness, right gaze 
deviation, and left-sided weakness.

Sr. ___ was reportedly last seen well yesterday evening (at an 
unknown time), though had reportedly mentioned "dizziness" and 
feeling "woozy on her feet." She subsequently had a phone 
conversation with a fellow nun earlier this morning where she 
was noted to be "confused" but with otherwise largely 
intelligible speech, prior to being discovered with right-sided 
gaze deviation and left hemiparesis, prompting EMS activation 
and transfer to ___ there was notable for a 
third ventricular
IVH, prompting administration of Kcentra and transfer to ___ 
for further evaluation. During ED evaluation, ___ 
developed nausea and vomiting with some worsening dysarthria 
prior to
imaging, at which time concern was raised for elevated 
aspiration risk; during further discussion with her HCP and her 
convent, she was noted to have previously completed a MOSLT form 
indicating
DNR/DNI/DNH status, which her HCP confirmed, prompting 
redirection of care towards comfort measures in lieu of 
furthertesting or treatment.

Unable to complete ROS.
 
Past Medical History:
Atrial fibrillation (on apixaban)
CHF
PPM placement
 
Social History:
___
Family History:
Unable to confirm.

 
Physical Exam:
Vitals: T: 97.5  HR: 87  BP: 133/66  RR: 14  SpO2: 100% NRB
General: NAD, brief vomiting
HEENT: NCAT, neck supple
___: RRR
Pulmonary: No tachypnea or increased WOB
Abdomen: Soft, ND
Extremities: Warm, BLE edema

Neurologic Examination:
- Mental status: Awake, alert, able to state age but not 
oriented to month or year. Sparse, though largely fluent speech 
with
intact comprehension. Naming intact only to some high-frequency 
objects. Able to follow midline and right-sided commands. Left
hemineglect.

- Cranial Nerves: Left homonymous hemianopia vs. dense visual 
neglect. Right gaze preference, able to reach midline, slightly
overcoming with oculocephalics. Left facial weakness. Hearing 
intact to conversation. Trapezius strength ___ on the right.
Tongue midline.

- Motor: Able to sustain antigravity effort in RUE and RLE, 
drifts to bed with LUE, limited activation of LLE.
 
- Reflexes: Deferred.

- Sensory: Absent to LT on left.

- Coordination: No dysmetria with FNF on right.

- Gait: Deferred.

 
Pertinent Results:
___ 12:40PM BLOOD WBC-8.7 RBC-3.61* Hgb-11.6 Hct-35.9 
MCV-99* MCH-32.1* MCHC-32.3 RDW-14.4 RDWSD-52.5* Plt ___
___ 12:40PM BLOOD ___ PTT-30.8 ___
___ 12:40PM BLOOD Glucose-97 UreaN-12 Creat-0.6 Na-133* 
K-4.0 Cl-98 HCO3-24 AnGap-11
___ 12:53PM BLOOD Lactate-1.___. Acute intraventricular hemorrhage.
2. Chronic findings include atrophy, chronic ventricular 
enlargement, atherosclerosis and severe white matter disease.

 
Brief Hospital Course:
___ w/ hx of atrial fibrillation on apixaban s/p PPM and ___ 
transferred from ___ after presenting with dizziness, 
left-sided weakness, and right-gaze deviation, consistent with R 
MCA syndrome. CT head without contrast showed loss of gray-white 
matter differentiation in the R frontal lobe with hemorrhage in 
the third ventricle. MOLST form indicated that the patient was 
DNR/DNI/DNH, thus further workup with deferred. Patient care was 
transitioned to comfort measures only in accordance with her 
previously expressed wishes. 
Morphine/lorazepam/glycopyrrolate/acetaminophen started for 
comfort, and the patient's home medication was discontinued. 

Transitional issues:
[ ] please titrate morphine, lorazepam, and glycopyrrolate 
accordingly to the patient's comfort
[ ] as indicated on the patient's MOLST form, patient is DO NOT 
RESUSCITATE/DO NOT INTUBATE/DO NOT HOSPITALIZE

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? () Yes, confirmed 
done - () Not confirmed (x) No. If no, reason why: Comfort 
focused care
2. DVT Prophylaxis administered? () Yes - (x) No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.): Comfort focused care
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.): Comfort focused care
4. LDL documented? () Yes (LDL = ) - (x) No: Comfort focused 
care
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
[x] Comfort focused care
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? () Yes - (x) No: Comfort focused care
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (I.e. patient at baseline 
functional status): Comfort focused care
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
[x] Comfort focused care
10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - (x) No: Comfort focused 
care
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) () N/A: Comfort focused care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN mild pain,tactile fever 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*15 Tablet Refills:*3 
2.  Glycopyrrolate 1 mg PO Q4H:PRN excess secretions 
RX *glycopyrrolate 1 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO Q4H:PRN anxiety 
RX *lorazepam 0.5 mg 0.5 (One half) mg by mouth every four (4) 
hours Disp #*15 Tablet Refills:*0 
4.  Morphine Sulfate ___ ___ mg PO Q1H:PRN BREAKTHROUGH PAIN 
RX *morphine 20 mg/5 mL (4 mg/mL) ___ mL by mouth every 1 hour 
Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of dizziness, left-sided 
weakness, right gaze deviation resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

-atrial fibrillation

In accordance with your previously stated wishes, you are being 
discharged home with hospice care. 

We are changing your medications as follows:
- START morphine sulfate 15 mg every 6 hours as needed for pain
- START lorazepam 0.5 mg every 4 hours as needed for anxiety
- START glycopyrrolate 1 mg every 4 hours as needed for 
excessive secretions 
- START acetaminophen 650 mg every 4 hours as needed for pain
- STOP apixaban

You indicated on your MOLST form that you do not want to be 
hospitalized. Your MOLST form will help notify medical personnel 
of these wishes. 

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___